US05840726
N-t-Butoxycarbonyl-N-allyl-2-phenyl-ethylamine
Combine N-t-butoxycarbonyl-2-phenyl-ethylamine (22.1 g, 100 mmol) and THF (100 mL) under an inert atmosphere. Cool to 0° C. in an ice-bath. Add portionwise sodium hydride (0.206 g, 110 mmol) and allow to stir until hydrogen evolution ceases. Add allyl bromide (9.50 mL, 110 mmol) and warm to ambient temperature. Cool again to 0° C. in an ice-bath. Add sodium hydride (0.92 g, 40 mmol) and allow to stir until hydrogen evolution ceases. Add allyl bromide (3.0 mL, 35.0 mmol) and heat to reflux for 18 hours. Cool to ambient temperature. Add a saturated aqueous solution of ammonium chloride (200 mL) and extract with ethyl acetate. Dry the organic layer over MgSO4, filter, and evaporate in vacuo. Chromatograph eluting sequentially with hexane and 10% ethyl acetate/hexane to give the title compound.

reactant | N-t-butoxycarbonyl-2-phenyl-ethylamine | 100 mmol, 22.1 g | C(C)(C)(C)OC(=O)NCCC1=CC=CC=C1 | C13H19NO2
reactant | sodium hydride | 110 mmol, 0.206 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | allyl bromide | 110 mmol, 9.50 mL | C(C=C)Br | C3H5Br
reactant | sodium hydride | 40 mmol, 0.92 g | [H-].[Na+]
reactant | allyl bromide | 35.0 mmol, 3.0 mL | C(C=C)Br | C3H5Br
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-t-Butoxycarbonyl-N-allyl-2-phenyl-ethylamine | C(C)(C)(C)OC(=O)N(CC=C)CCC1=CC=CC=C1 | C16H23NO2
